### PR TITLE
[Merged by Bors] - feat: sum and product of commuting semisimple endomorphisms

### PR DESCRIPTION
**Pull request by alreadydone**
+ Prove `isSemisimple_of_mem_adjoin`: if two commuting endomorphisms of a finite-dimensional vector space over a perfect field are both semisimple, then every endomorphism in the algebra generated by them (in particular their product and sum) is semisimple.

+ In the same file LinearAlgebra/Semisimple.lean, `eq_zero_of_isNilpotent_isSemisimple` and `isSemisimple_of_squarefree_aeval_eq_zero` are golfed, and `IsSemisimple.minpoly_squarefree` is proved

RingTheory/SimpleModule.lean:

+ Define `IsSemisimpleRing R` to mean that R is a semisimple R-module.
add properties of simple modules and a characterization (they are exactly the quotients of the ring by maximal left ideals).

+ The annihilator of a semisimple module is a radical ideal.

+ Any module over a semisimple ring is semisimple.

+ A finite product of semisimple rings is semisimple.

+ Any quotient of a semisimple ring is semisimple.

+ Add Artin--Wedderburn as a TODO (proof_wanted).

+ Order/Atoms.lean: add the instance from `IsSimpleOrder` to `ComplementedLattice`, so that `IsSimpleModule → IsSemisimpleModule` is automatically inferred.

Prerequisites for showing a product of semisimple rings is semisimple:

+ Algebra/Module/Submodule/Map.lean: generalize `orderIsoMapComap` so that it only requires `RingHomSurjective` rather than `RingHomInvPair`

+ Algebra/Ring/CompTypeclasses.lean, Mathlib/Algebra/Ring/Pi.lean, Algebra/Ring/Prod.lean: add RingHomSurjective instances

RingTheory/Artinian.lean:

+ `quotNilradicalEquivPi`: the quotient of a commutative Artinian ring R by its nilradical is isomorphic to the (finite) product of its quotients by maximal ideals (therefore a product of fields).
`equivPi`: if the ring is moreover reduced, then the ring itself is a product of fields. Deduce that R is a semisimple ring and both R and R[X] are decomposition monoids. Requires `RingEquiv.quotientBot` in RingTheory/Ideal/QuotientOperations.lean.

+ Data/Polynomial/Eval.lean: the polynomial ring over a finite product of rings is isomorphic to the product of polynomial rings over individual rings. (Used to show R[X] is a decomposition monoid.)

Other necessary results:

+ FieldTheory/Minpoly/Field.lean: the minimal polynomial of an element in a reduced algebra over a field is radical.

+ RingTheory/PowerBasis.lean: generalize `PowerBasis.finiteDimensional` and rename it to `.finite`.

Annihilator stuff, some of which do not end up being used:

+ RingTheory/Ideal/Operations.lean: define `Module.annihilator` and redefine `Submodule.annihilator` in terms of it; add lemmas, including one that says an arbitrary intersection of radical ideals is radical. The new lemma `Ideal.isRadical_iff_pow_one_lt` depends on `pow_imp_self_of_one_lt` in Mathlib/Data/Nat/Interval.lean, which is also used to golf the proof of `isRadical_iff_pow_one_lt`.

+ Algebra/Module/Torsion.lean: add a lemma and an instance (unused)

+ Data/Polynomial/Module/Basic.lean: add a def (unused) and a lemma

+ LinearAlgebra/AnnihilatingPolynomial.lean: add lemma `span_minpoly_eq_annihilator`

Some results about idempotent linear maps (projections) and idempotent elements, used to show that any (left) ideal in a semisimple ring is spanned by an idempotent element (unused):

+ LinearAlgebra/Projection.lean: add def `isIdempotentElemEquiv`

+ LinearAlgebra/Span.lean: add two lemmas

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by alreadydone** [comment]
!bench

File: Mathlib/Data/Nat/Interval.lean [hunk 1]
```diff
@@ -396,4 +396,11 @@ theorem Nat.cauchy_induction_two_mul (seed : ℕ) (hs : P seed.succ)
   Nat.cauchy_induction_mul h 2 seed one_lt_two hs hm n
 #align nat.cauchy_induction_two_mul Nat.cauchy_induction_two_mul
 
+theorem Nat.pow_imp_self_of_one_lt {M} [Monoid M] (k : ℕ) (hk : 1 < k)
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Nat/Interval.lean:399]: suggestion : rename hsucc to hmul and hP to hpow

Comment (AntoineChambert-Loir) [reply Mathlib/Data/Nat/Interval.lean:399]: also : given hsucc, hP seems automatic (if P x doesn't hold, then P (x ^ k) can't, by induction on k), or there's something that confuses me.

File: Mathlib/LinearAlgebra/Semisimple.lean [hunk 2]
```diff
@@ -121,23 +100,67 @@ lemma IsSemisimple_smul (t : K) (h : f.IsSemisimple) :
...
+  exact (e.isSemisimpleModule_iff_of_bijective bijective_id).mpr inferInstance
+
+variable [FiniteDimensional K M]
+
+/-- The minimal polynomial of a semisimple endomorphism is square free -/
+theorem IsSemisimple.minpoly_squarefree (hf : f.IsSemisimple) : Squarefree (minpoly K f) :=
+  IsRadical.squarefree (minpoly.ne_zero <| isIntegral _) <| by
+    rw [isRadical_iff_span_singleton, span_minpoly_eq_annihilator]; exact hf.annihilator_isRadical
+
+variable [PerfectField K] (comm : Commute f g) (hf : f.IsSemisimple) (hg : g.IsSemisimple)
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/Semisimple.lean:124]: can you add a section here, that gathers the result that only hold for a perfect field.
This will add structure to the file.

File: Mathlib/RingTheory/SimpleModule.lean [hunk 3]
```diff
@@ -90,8 +101,55 @@ theorem isAtom : IsAtom m :=
   isSimpleModule_iff_isAtom.1 hm
 #align is_simple_module.is_atom IsSimpleModule.isAtom
 
+variable [IsSimpleModule R M]
+open LinearMap
+
+theorem span_singleton_eq_top {m : M} (hm : m ≠ 0) : Submodule.span R {m} = ⊤ :=
+  (eq_bot_or_eq_top _).resolve_left fun h ↦ hm (h.le <| Submodule.mem_span_singleton_self m)
+
+-- needs import to use Submodule.IsPrincipal
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/SimpleModule.lean:110]: I feel that definition of Submodule.IsPrincipal should be moved to another (more basic) file so that this import is not necessary.

File: Mathlib/RingTheory/SimpleModule.lean [hunk 4]
```diff
@@ -90,8 +101,55 @@ theorem isAtom : IsAtom m :=
...
+
+/-- In general, the annihilator of a simple module is called a primitive ideal, and it is
+always a two-sided prime ideal, but mathlib's `Ideal.IsPrime` is not the correct definition
+for noncommutative rings. -/
+theorem IsSimpleModule.annihilator_isMaximal {R} [CommRing R] [Module R M]
+    [simple : IsSimpleModule R M] : (Module.annihilator R M).IsMaximal := by
+  have ⟨I, max, ⟨e⟩⟩ := isSimpleModule_iff_quot_maximal.mp simple
+  rwa [e.annihilator_eq, I.annihilator_quotient]
+
+-- TODO: IsSeimpleModule R R ↔ ∃ (x : R) ≠ 0, IsUnit x
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/SimpleModule.lean:146]: typo : IsSimpleModule

File: Mathlib/RingTheory/Artinian.lean [hunk 5]
```diff
@@ -513,13 +519,41 @@ lemma primeSpectrum_finite : {I : Ideal R | I.IsPrime}.Finite := by
...
+/-- The quotient of a commutative artinian ring by its nilradical is isomorphic to
+a product of finitely many fields, namely the quotients by the maximal ideals. -/
+noncomputable def quotNilradicalEquivPi :
+    R ⧸ nilradical R ≃+* ∀ I : {I : Ideal R | I.IsMaximal}, R ⧸ I.1 :=
+  .trans (Ideal.quotEquivOfEq <| ext fun x ↦ by simp_rw [mem_nilradical,
+    nilpotent_iff_mem_prime, Submodule.mem_iInf, Subtype.forall, isPrime_iff_isMaximal, mem_setOf])
+  (Ideal.quotientInfRingEquivPiQuotient _ fun I J h ↦
+    Ideal.isCoprime_iff_sup_eq.mpr <| I.2.coprime_of_ne J.2 <| by rwa [Ne, Subtype.coe_inj])
+
+/-- Any reduced commutative artinian ring is isomorphic to a product of
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Artinian.lean:544]: add this in the initial docstring?

File: Mathlib/LinearAlgebra/Semisimple.lean [hunk 6]
```diff
@@ -121,23 +100,67 @@ lemma IsSemisimple_smul (t : K) (h : f.IsSemisimple) :
...
+
+theorem isSemisimple_of_mem_adjoin {a : End K M} (ha : a ∈ Algebra.adjoin K {f, g}) :
+    a.IsSemisimple := by
+  let R := K[X] ⧸ Ideal.span {minpoly K f}
+  let S := AdjoinRoot ((minpoly K g).map <| algebraMap K R)
+  haveI : Finite K R := (AdjoinRoot.powerBasis' <| minpoly.monic <| isIntegral f).finite
```
Comment (AntoineChambert-Loir) [inline Mathlib/LinearAlgebra/Semisimple.lean:130]: I had understood that in Lean4, haveI doesn't need that an instance is added. Probably have is sufficient.

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 7]
```diff
@@ -43,16 +44,39 @@ protected theorem _root_.Ideal.smul_eq_mul (I J : Ideal R) : I • J = I * J :=
   rfl
 #align ideal.smul_eq_mul Ideal.smul_eq_mul
 
+variable (R M) in
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/Ideal/Operations.lean:47]: The files Ideal/Operations and Ideal/QuotientOperations are long, maybe some split will have to be considered…

File: Mathlib/RingTheory/SimpleModule.lean [hunk 8]
```diff
@@ -148,6 +240,77 @@ lemma isSemisimpleModule_of_isSemisimpleModule_submodule' {p : ι → Submodule
     IsSemisimpleModule R M :=
   isSemisimpleModule_of_isSemisimpleModule_submodule (s := Set.univ) (fun i _ ↦ hp i) (by simpa)
 
+theorem IsSemisimpleModule.sup {p q : Submodule R M}
```
Comment (AntoineChambert-Loir) [inline Mathlib/RingTheory/SimpleModule.lean:243]: While you're at it, add IsSemisimpleModule.sSup and .iSup?

File: Mathlib/LinearAlgebra/Semisimple.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Semisimple.lean:126]: done

File: Mathlib/LinearAlgebra/Semisimple.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/LinearAlgebra/Semisimple.lean]: Yeah, the `I` in `haveI` stands for `inline` in Lean 4 rather than `instance`, but I habitually write `haveI` to signify instances, but maybe that's pointless. Removed the `I` now.

File: Mathlib/Data/Nat/Interval.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/Data/Nat/Interval.lean:399]: done, thanks!

File: Mathlib/RingTheory/Artinian.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Artinian.lean:544]: There are other results worth mentioning in the module docstring, e.g. all prime ideals are maximal and there are only finitely many, the Jacobson radical is nilpotent ... Maybe use a dedicated documentation PR for all of them?

File: Mathlib/RingTheory/Ideal/Operations.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/Operations.lean:47]: or golfs ...

File: Mathlib/RingTheory/SimpleModule.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/RingTheory/SimpleModule.lean:110]: I agree! I think I missed the opportunity in #10327, but both that PR and this one are already large. Hopefully there will be another opportunity soon ...

File: Mathlib/RingTheory/SimpleModule.lean (hunk 8 above)
Comment (alreadydone) [reply Mathlib/RingTheory/SimpleModule.lean:243]: There's already the biSup version (from which this is deduced) and it's easy to convert iSup and sSup using [iSup_univ](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteLattice.html#iSup_univ) and [sSup_eq_iSup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/CompleteLattice.html#sSup_eq_iSup), so I think we can omit the sSup and iSup versions.

File: Mathlib/RingTheory/Artinian.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/Artinian.lean:544]: Well, I'd suggest to just do it right now for the stuff you add here, and leave to somebody else to do the rest (might be you if you wish!).

File: Mathlib/RingTheory/SimpleModule.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/SimpleModule.lean:243]: OK, then…

File: Mathlib/RingTheory/SimpleModule.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/SimpleModule.lean:110]: Well, that's something that will be forgotten in two days. Maybe a simple invocation of #find_home! will indicate you the place to move this.

Comment (alreadydone) [reply Mathlib/RingTheory/SimpleModule.lean:110]: Probably I should also move IsPrincipalIdealRing earlier (or create a new file PrincipalIdealDomain/Defs) so I can also add the IsSemisimpleRing -> IsPrincipalIdealRing instance ...

**Comment by ocfnash** [comment]
I’m away on holiday (with patchy phone-only internet) so I can’t review this but I’m delighted to see it. Thanks!

File: Mathlib/RingTheory/SimpleModule.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/RingTheory/SimpleModule.lean]: done now

File: Mathlib/RingTheory/Artinian.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Artinian.lean]: added docstring to Artinian and SimpleModule

File: Mathlib/LinearAlgebra/Semisimple.lean [hunk 9]
```diff
@@ -157,11 +158,23 @@ theorem isSemisimple_of_mem_adjoin {a : End K M} (ha : a ∈ Algebra.adjoin K {f
     ((minpoly.isRadical K p).squarefree <| minpoly.ne_zero <| .of_finite K p) ?_
   rw [aeval_algHom, φ.comp_apply, minpoly.aeval, φ.map_zero]
 
-theorem isSemisimple_add_of_commute : (f + g).IsSemisimple := isSemisimple_of_mem_adjoin comm
-  hf hg <| add_mem (Algebra.subset_adjoin <| .inl rfl) (Algebra.subset_adjoin <| .inr rfl)
+theorem IsSemisimple.of_mem_adjoin_singleton {a : End K M} (ha : a ∈ Algebra.adjoin K {f}) :
+    a.IsSemisimple := .of_mem_adjoin_pair (.refl _) hf hf <| by simpa using ha
+
+protected theorem IsSemisimple.aeval (p : K[X]) : (aeval f p).IsSemisimple :=
+  .of_mem_adjoin_singleton hf (aeval_mem_adjoin_singleton _ _)
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/Semisimple.lean:165]: Hmm, these shouldn't require PerfectField. Will fix.

**Comment by alreadydone** [comment]
!bench
(might help figure out what causes the simpNF typeclass timeouts)

**Comment by alreadydone** [comment]
#11127 is a subset of this PR on which the simpNF linter doesn't fail. I'll try to extend to larger and larger subsets and see when it fails.

**Comment by alreadydone** [comment]
Great, this passes build now. It turns out the ArtinianRing->SemisimpleRing instance is the culprit that made the simpNF linter fail, maybe because SemisimpleRing is an abbrev of ComplementedLattice which triggers unhinged typeclass search in other parts of the library.

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 10]
```diff
@@ -376,6 +400,13 @@ theorem mem_colon' {r} : r ∈ N.colon P ↔ P ≤ comap (r • (LinearMap.id :
   mem_colon
 #align submodule.mem_colon' Submodule.mem_colon'
 
+theorem colon_top {I : Ideal R} : I.colon ⊤ = I := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/Ideal/Operations.lean:403]:
```suggestion
@[simp]
theorem colon_top {I : Ideal R} : I.colon ⊤ = I := by
```

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 11]
```diff
@@ -376,6 +400,13 @@ theorem mem_colon' {r} : r ∈ N.colon P ↔ P ≤ comap (r • (LinearMap.id :
...
+  simp_rw [SetLike.ext_iff, mem_colon, smul_eq_mul]
+  exact fun x ↦ ⟨fun h ↦ mul_one x ▸ h 1 trivial, fun h _ _ ↦ I.mul_mem_right _ h⟩
+
+theorem colon_bot : colon ⊥ N = N.annihilator := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/Ideal/Operations.lean:407]:
```suggestion
@[simp]
theorem colon_bot : colon ⊥ N = N.annihilator := by
```

**Review by jcommelin — APPROVED** [review]
Minor comment. LGTM. Thanks a lot for this substantial refactor/addition!

bors d+

File: Mathlib/RingTheory/Ideal/Operations.lean (hunk 11 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/Operations.lean:409]: Applied, thanks!
